US07687664B2
6.8 mg of Methyl [3′-(3-bromo-1-propynyl)-4′-methoxybiphenyl-3-yl acetate was dissolved in 0.2 ml of N,N-dimethylformamide, 10 mg of 4-trifluoromethylphenol and 10 mg of potassium carbonate were added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was concentrated to give methyl {4′-methoxy-3′-[3-(4-trifluoromethylphenoxy)-1-propynyl]biphenyl-3-yl}acetate. This product was dissolved in 0.4 ml of ethanol, then 0.1 ml of 5N aqueous sodium hydroxide was added thereto, and the mixture was stirred overnight at room temperature. 1N hydrochloric acid was added to the reaction mixture which was then extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by reverse-phase high performance liquid chromatography to give 4.89 mg of the title compound.

reactant | 3′-(3-bromo-1-propynyl)-4′-methoxybiphenyl-3-yl acetate | C(C)(=O)OC=1C=C(C=CC1)C1=CC(=C(C=C1)OC)C#CCBr | C18H15BrO3
reactant | 4-trifluoromethylphenol | 10 mg | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | methyl {4′-methoxy-3′-[3-(4-trifluoromethylphenoxy)-1-propynyl]biphenyl-3-yl}acetate | COC1=C(C=C(C=C1)C1=CC(=CC=C1)CC(=O)OC)C#CCOC1=CC=C(C=C1)C(F)(F)F | C26H21F3O4
